US08404719B2
3-(octahydro-2H-pyrido[1,2-α]pyrazin-2-ylcarbonyl)-N-[3-(trifluoromethyl)phenyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.36 g 1.5 mmol) in anhydrous dichloromethane (50 mL) was added octahydro-1H-pyrido[1,2-α]pyrazine (0.21 g, 1.5 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.32 g, 3 mmol) was added. The mixture was stirred at room temperature for 5 hours. Then 3-(trifluoromethyl)aniline (2.9 g, 18 mmol) was added. The mixture was stirred at room temperature for 5 days, then sodium carbonate (0.32 g, 3 mmol) and methanol (5 mL) were added, the mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (methanol/ethyl acetate=1:10) to give the titled compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.00-1.27 (m, 3H), 1.42-2.10 (m, 7H), 2.70-3.40 (m, 4H), 4.25-4.40 (m, 1H), 7.40 (m, 3H), 7.50 (m, 1H), 7.70 (m, 3H), 7.85 (m, 1H), 10.80 (br s, 1H); MS (ESI) m/z 468 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.5 mmol, 0.36 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | octahydro-1H-pyrido[1,2-α]pyrazine | 1.5 mmol, 0.21 g | C1C2N(CCN1)CCCC2 | C8H16N2
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(trifluoromethyl)aniline | 18 mmol, 2.9 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 3-(octahydro-2H-pyrido[1,2-α]pyrazin-2-ylcarbonyl)-N-[3-(trifluoromethyl)phenyl]benzenesulfonamide | C1C2N(CCN1C(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=CC(=CC=C1)C(F)(F)F)CCCC2 | C22H24F3N3O3S
